US05229379
16.46 g of 2-cyanoethyl(n-butyl)phosphinic acid ethyl ester are dissolved in 165 ml of ethanol, the solution is mixed with 16.5 g of ammonia and 3.0 g of Raney nickel, and the mixture is hydrogenated for 2 hours at 70°-75° under an initial pressure of 100 bar. The mixture is allowed to cool to room temperature, the catalyst is filtered off, the solvent is removed and the residue is distilled, yielding 3-aminopropyl(n-butyl)phosphinic acid ethyl ester having a boiling point of 100° (10-5 bar).

reactant | 2-cyanoethyl(n-butyl)phosphinic acid ethyl ester | 16.46 g | C(C)OP(=O)(CCCC)CCC#N | C9H18NO2P
reactant | ammonia | 16.5 g | N | H3N
solvent | ethanol | 165 ml | C(C)O | C2H6O
catalyst | Raney nickel | 3.0 g | [Ni] | Ni
product | 3-aminopropyl(n-butyl)phosphinic acid ethyl ester | C(C)OP(=O)(CCCC)CCCN | C9H22NO2P
